US05977152
4-(Acetylthio)-1-[(E)-4-(trifluoromethoxy)cinnamoyl]-piperidine
In 17 ml of dichloromethane were suspended 1.28 g (6.53 mmol) of 4-(acetylthio)piperidine hydrochloride, and 2.27 ml (16.3 mmol) of triethylamine were added dropwise to the suspension with stirring under ice-cooling. Then, a solution in which 1.80 g (7.18 mmol) of (E)-4-(trifluoromethoxy)cinnamoyl chloride were dissolved in 6 ml of dichloromethane was added dropwise to the reaction mixture, followed by stirring of the mixture at the same temperature for 1 hour. The reaction mixture was subjected to silica gel column chromatography and eluted with a mixed solvent of hexane-ethyl acetate (2:1 to 1:1) to obtain 2.32 g (yield: 95%) of the desired compound as a slightly yellow solid.

reactant | 4-(acetylthio)piperidine hydrochloride | 6.53 mmol, 1.28 g | Cl.C(C)(=O)SC1CCNCC1
reactant | triethylamine | 16.3 mmol, 2.27 ml | C(C)N(CC)CC | C6H15N
reactant | (E)-4-(trifluoromethoxy)cinnamoyl chloride | 7.18 mmol, 1.80 g | FC(OC1=CC=C(/C=C/C(=O)Cl)C=C1)(F)F | C10H6ClF3O2
solvent | dichloromethane | 17 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 4-(Acetylthio)-1-[(E)-4-(trifluoromethoxy)cinnamoyl]-piperidine | 2.32 g, yield: 95% | C(C)(=O)SC1CCN(CC1)C(\C=C\C1=CC=C(C=C1)OC(F)(F)F)=O | C17H18F3NO3S
